US04448776
11 g of N-diphenylmethyl-ethylenediamine, 10.1 g of triethylamine and 7.0 g of 1-phenylethyl chloride are dissolved, while stirring, in 85 ml of acetonitrile and heated under reflux for 30 hours. The solution is concentrated by evaporation under reduced pressure, 50 ml of 10% sodium hydroxide solution are added and the mixture is extracted thoroughly by shaking with diethyl ether. The ether extracts are combined, dried over sodium sulphate and concentrated by evaporation. N-diphenylmethyl-N'-(1-phenylethyl)-ethylenediamine is obtained in the form of a yellow oil which can be purified chromatographically over silica gel with methanol/ethyl acetate (1:1) as the eluant and, for characterisation, can be converted into the dihydrochloride, having a melting point of 160° C., as described in Example 4.

reactant | N-diphenylmethyl-ethylenediamine | 11 g | C1(=CC=CC=C1)C(NCCN)C1=CC=CC=C1 | C15H18N2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-phenylethyl chloride | 7.0 g | C1(=CC=CC=C1)C(C)Cl | C8H9Cl
solvent | acetonitrile | 85 ml | C(C)#N | C2H3N
product | N-diphenylmethyl-N'-(1-phenylethyl)-ethylenediamine | C1(=CC=CC=C1)C(NCCNC(C)C1=CC=CC=C1)C1=CC=CC=C1 | C23H26N2
